US06200978B1
7-Isoquinolinyl methyl ether
To a solution of BF3.AcOH complex (33.78 g, 0.180 mol) in triflouoracetic anhydride (40 ml) at 0° C. was added a solution of the imine prepared from 3-methoxybenzaldehyde and aminoethanaldiethylacetal (Tetrahedron, 1971, 27, 1253) (15.06 g, 0.0599 mol) in trifluoroacetic anhydride (40 ml), maintaining the temperature below 10° C. After 48 hours, the mixture was poured into ice-water (300 ml), the solution made basic with concentrated ammonium hydroxide and extracted with dichloromethane. The organic phase was then extracted with aqueous hydrochloric acid solution (5N, 2×400 ml). The combined aqueous was made basic with concentrated ammonium hydroxide solution and extracted with dichloromethane. The organic phase was dried (MgSO4), filtered, the solvent removed under reduced pressure and the residue purified on silica, eluting with a solvent gradient of 98:2 to 95:5 dichloromethane:methanol, to give the title compound, (6.85 g, 72%).

reactant | BF3 | B(F)(F)F | BF3
reactant | 3-methoxybenzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | trifluoroacetic anhydride | 40 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 7-Isoquinolinyl methyl ether | 6.85 g, 72% | COC1=CC=C2C=CN=CC2=C1 | C10H9NO
